US20010029037A1
In the same manner as in Example 1, the cell suspension of Proteus vulgaris ATCC 13315 was prepared. Subsequently, 50 ml of a solution containing 120 mg/ml L-serine, 8 mg/ml sodium sulfite and 0.2 mg/ml pyridoxal 5′-phosphate were adjusted to pH 8.8, using potassium hydroxide solution, to adjust the final volume to 80 ml (substrate solution B). Subsequently, 1 ml of cell suspension was added to the 8 ml of substrate solution B, to which was added 1 ml of a solution containing 200 mg/ml 5-fluoroindole dissolved in methanol, and the resulting preparation was incubated at 37° C. After the reaction had proceeded for the times indicated in Table 2, the reaction was stopped with boiling for 5 minutes. The amount of 5-fluoro-L-tryptophan produced in the reaction solution for 2, 6, 18 and 30 hours of reaction is shown in Table 2.

reactant | L-serine | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | pyridoxal 5′-phosphate | CC1=NC=C(C(=C1O)C=O)COP(=O)(O)O | C8H10NO6P
reactant | potassium hydroxide | [OH-].[K+]
reactant | 5-fluoroindole | FC=1C=C2C=CNC2=CC1 | C8H6FN
solvent | methanol | CO | CH4O
product | 5-fluoro-L-tryptophan | FC1=CC=C2NC=C(C[C@H](N)C(=O)O)C2=C1 | C11H11FN2O2
